### PR TITLE
 solvable part of CohenCyril's abel backport 

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Extracts the part from https://github.com/math-comp/math-comp/pull/944 that concern solvable (with a few things moved to `zmodp`).

Depends on:
- https://github.com/math-comp/math-comp/pull/1196

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/algebra/intdiv.v [hunk 1]
```diff
@@ -1104,3 +1111,50 @@ rewrite -defS -2!mulmxA; have ->: T *m pinvmx T = 1%:M.
   by apply: (row_free_inj uT); rewrite mul1mx mulmxKpV.
 by move=> i; rewrite mulmx1 -map_mxM 2!mxE denq_int mxE.
 Qed.
+
+Lemma eisenstein (p : nat) (q : {poly int}) : prime p -> (size q != 1)%N ->
+  (~~ (p %| lead_coef q))%Z -> (~~ ((p : int) ^+ 2 %| q`_0))%Z ->
+  (forall i, (i < (size q).-1)%N -> p %| q`_i)%Z ->
+  irreducible_poly (map_poly (intr : int -> rat) q).
```
Comment (thery) [inline mathcomp/algebra/intdiv.v:1118]: don't like the way the thm is formulated if it is very forward. I would have liked a backard version. The conclusion `irreducible_poly q` and `q : {poly rat})`

**Comment by thery** [comment]
I have just starting reviewing before realizing that actually the code that I was reviewing was already merge :disappointed: 
Can someone that knows this PR can resolved the conflicts. Thanks

**Comment by Tragicus** [comment]
I am quite confused, I got rid of the commits for the previous PRs and rebased on top of master, it should be correct now.

**Comment by thery** [comment]
Almost
``` File "./algebra/zmodp.v", line 396, characters 11-18:
Error: The variable tpermJt was not found in the current environment.
```

File: mathcomp/algebra/intdiv.v [hunk 2]
```diff
@@ -1104,3 +1111,50 @@ rewrite -defS -2!mulmxA; have ->: T *m pinvmx T = 1%:M.
   by apply: (row_free_inj uT); rewrite mul1mx mulmxKpV.
 by move=> i; rewrite mulmx1 -map_mxM 2!mxE denq_int mxE.
 Qed.
+
+Lemma eisenstein (p : nat) (q : {poly int}) : prime p -> (size q != 1)%N ->
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply mathcomp/algebra/intdiv.v]: I will open another PR.

File: mathcomp/algebra/intdiv.v (hunk 1 above)
Comment (Tragicus) [reply mathcomp/algebra/intdiv.v]: We need divisibility in `int`, so having `q : {poly rat}` would require a hypothesis like `exists q', q = map_poly intr q'` which is weird. I will try to reprove it in `int`. Alternatively, we can prove that irreducibility in `int` and in `rat` are the same for a polynomial over `int`.

**Comment by Tragicus** [comment]
Sad, I hoped I could avoid compiling myself...

File: mathcomp/algebra/intdiv.v (hunk 1 above)
Comment (thery) [reply mathcomp/algebra/intdiv.v]: no,  I was thinking in which context I will do `apply: eisenstein` and the theorem seems not easy to use. That's all

Comment (thery) [reply mathcomp/algebra/intdiv.v]: as a matter of fact, it is not used for the moment ;-)

**Comment by thery** [comment]
I don't understand why the CI is happy.
Me I get 
``` COQC algebra/zmodp.v
File "./algebra/zmodp.v", line 396, characters 11-18:
Error: The variable tpermJt was not found in the current environment.

```

**Comment by Tragicus** [comment]
The CI does too, does it not ?

**Comment by thery** [comment]
some do, the majority succeeds

**Comment by Tragicus** [comment]
Yes, but a lot of them do not need `algebra`. The ones who do were skipped (as far as I understand).

File: mathcomp/algebra/intdiv.v (hunk 1 above)
Comment (Tragicus) [reply mathcomp/algebra/intdiv.v]: Let us move to #1226.

Comment (CohenCyril) [reply mathcomp/algebra/intdiv.v]: > as a matter of fact, it is not used for the moment ;-)

The contents of these files are all used in github.com/mathcomp/Abel, because they are backports of intermediate results needed in Galois' theorem and Abel Ruffini theorem.

Because of that they might indeed be too specialized, and some results may be redundant, but applications should be looked for in the above repo.

For instance, Eisenstein crierion is used here: https://github.com/math-comp/Abel/blob/40ce680f71ef36efa19c98bccadf1d0c3ee7503d/theories/abel.v#L1215-L1220

Comment (CohenCyril) [reply mathcomp/algebra/intdiv.v]: > don't like the way the thm is formulated: it is very forward. I would have liked a backward version. The conclusion `irreducible_poly q` and `q : {poly rat}`

Having a backward version with `q` in `{poly rat}` would mean having divisibility theory be in `rat` instead of `int`, which I'm convinced we shouldn't be redoing. I think Quentin's solutio (proving equivalence between irreducibility in `int` and `rat`) is a good way to restate the theorem in a more natural form, but that the objective you seek @thery would be best achieved by an automated coercion between `{poly rat}` and `{poly int}`, which means using the naturality of `{poly _}` automatically, but that's future work.

File: mathcomp/algebra/zmodp.v [hunk 3]
```diff
@@ -375,3 +375,49 @@ HB.instance Definition _ := Fp_fieldMixin.
...
+have [->|kS2N0] := eqVneq (k *+ i.+2) 0; first by rewrite tperm1 group1.
+have kSSneqkS : k *+ i.+2 != k *+ i.+1.
+  rewrite -subr_eq0 -mulrnBr// subSnn mulr1n.
+  by apply: contraTneq k_unit => ->; rewrite unitr0.
+rewrite -(@tpermJ_tperm _ (k *+ i.+1)) 1?eq_sym//.
+rewrite groupJ// 1?tpermC// mulrSr 1?tpermC.
+by rewrite mem_gen//; apply/imsetP; exists (k *+ i.+1).
+Qed.
+
+Lemma gen_tpermS n : <<[set tperm i (i + 1) | i : 'I_n.+2]>>%g = [set: 'S_n.+2].
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/zmodp.v:401]: What do you mean by "do we need this theorem?", what do you thing subsumes it?

File: mathcomp/algebra/intdiv.v (hunk 1 above)
Comment (thery) [reply mathcomp/algebra/intdiv.v]: so is it ok to state the natural theorem in `{poly int}` and to have a theorem stating the irreducibility transfer from `int` to `rat`?

File: mathcomp/algebra/zmodp.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (thery) [reply mathcomp/algebra/zmodp.v:401]: it is just a trivial instantiation of the previous one.

File: mathcomp/algebra/zmodp.v [hunk 4]
```diff
@@ -375,3 +375,49 @@ HB.instance Definition _ := Fp_fieldMixin.
...
+Proof. by rewrite gen_tperm_step// coprimen1. Qed.
+
+Lemma perm_add1X n (j k : 'I_n.+2) : (perm (addrI 1%R) ^+ j)%g k = j + k.
+Proof. by rewrite permX (eq_iter (permE _)) iter_addr natr_Zp. Qed.
+
+Lemma gen_tpermn_cycle n (i j : 'I_n.+2)
```
[the remark this answers is not in the document]
Comment (thery) [reply mathcomp/algebra/zmodp.v:407]: `perm (addrI 1%R)` is called [circular shift](https://en.wikipedia.org/wiki/Circular_shift) in the literature it seems.

File: mathcomp/algebra/zmodp.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/zmodp.v:401]: Oh I see, but it might be a result people are looking for (rather than the generalized version above). I'm never sure whether to add specializations or not...

File: mathcomp/algebra/zmodp.v [hunk 5]
```diff
@@ -375,3 +375,49 @@ HB.instance Definition _ := Fp_fieldMixin.
...
+  by apply: contraTneq k_unit => ->; rewrite unitr0.
+rewrite -(@tpermJ_tperm _ (k *+ i.+1)) 1?eq_sym//.
+rewrite groupJ// 1?tpermC// mulrSr 1?tpermC.
+by rewrite mem_gen//; apply/imsetP; exists (k *+ i.+1).
+Qed.
+
+Lemma gen_tpermS n : <<[set tperm i (i + 1) | i : 'I_n.+2]>>%g = [set: 'S_n.+2].
+Proof. by rewrite gen_tperm_step// coprimen1. Qed.
+
+Lemma perm_add1X n (j k : 'I_n.+2) : (perm (addrI 1%R) ^+ j)%g k = j + k.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/zmodp.v:404]: Sure, let's have the general version instead.

File: mathcomp/algebra/zmodp.v (hunk 4 above)
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/zmodp.v:407]: > `perm (addrI 1%R)` is called [circular shift](https://en.wikipedia.org/wiki/Circular_shift) in the literature it seems.

Yes sounds better!

File: mathcomp/algebra/zmodp.v [hunk 6]
```diff
@@ -375,3 +375,49 @@ HB.instance Definition _ := Fp_fieldMixin.
...
+Proof.
+move=> jBi_coprime; apply/eqP; rewrite eqEsubset subsetT/=.
+rewrite -(gen_tperm_step jBi_coprime) gen_subG.
+apply/subsetP => s /imsetP[/= k _ ->].
+suff -> : tperm k (k + (j - i)) = (tperm i j ^ c ^+ (k - i)%R)%g.
+  by rewrite groupJ ?groupX ?mem_gen ?inE ?eqxx ?orbT.
+by rewrite tpermJ !perm_add1X addrNK addrAC addrA.
+Qed.
+
+Lemma gen_tperm01_cycle n (c := perm (addrI 1)) :
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/zmodp.v:419]: again this is the most well known specialization of the former...

File: mathcomp/algebra/intdiv.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/intdiv.v]: > so is it ok to state the natural theorem in `{poly int}` and to have a theorem stating the irreducibility transfer from `int` to `rat`?

I think it is, even tough it makes it even "harder" to apply ...

File: mathcomp/algebra/zmodp.v [hunk 7]
```diff
@@ -375,3 +375,49 @@ HB.instance Definition _ := Fp_fieldMixin.
 HB.instance Definition _ := FinRing.isField.Build 'F_p.
 
 End PrimeField.
+
+Section Sym.
+
+Import GRing.
+
+Lemma gen_tperm_step n (k : 'I_n.+2) : coprime n.+2 k ->
```
[the remark this answers is not in the document]
Comment (thery) [reply mathcomp/algebra/zmodp.v:383]: If `Iadd i k`reduces to `(i + k)` for `n.+2`, it would be the same.
I usually find the statement imposing _.+2 or _.+1 for no reason quite painfull to use.
Here the _.+2 is imposed because we want to write ` (i +k)`.

File: mathcomp/algebra/zmodp.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (thery) [reply mathcomp/algebra/zmodp.v:401]: I think the generalized version is enough, no need to add noise but it is a matter of taste.

File: mathcomp/algebra/zmodp.v (hunk 7 above)
[the remark this answers is not in the document]
Comment (thery) [reply mathcomp/algebra/zmodp.v:383]: Maybe we should just add definitions for special transpositions and permutations  that would work for all `n`.
`tpermDr i j` for `tperm i (i + j)`
`tpermS i`  for  `tperm i (i + 1)`  
`cshiftDr i` for `perm (addrI k)`
`cshift i`  for `perm (addrI  1)`

**Comment by CohenCyril** [comment]
@Tragicus is it ready for review again (can we undraft?)

**Comment by Tragicus** [comment]
Is there something left to do here, beyond rebasing?

**Comment by thery** [comment]
@Tragicus if you say you are done I can have a look again

**Comment by Tragicus** [comment]
I think so. As an orthogonal matter of fact, I just noticed that we should be able to remove a few more `_.+1` once https://github.com/math-comp/math-comp/pull/1256 is merged.

**Comment by thery** [comment]
@Tragicus can you resolve the conflicts?

File: solvable/cyclic.v [hunk 8]
```diff
@@ -103,6 +103,19 @@ move/inj_eq=> eqZ; symmetry; rewrite -(Zp_cast lt1a).
 by rewrite -[_ == _](eqZ (inZp m) (inZp n)) /Zpm /= Zp_cast ?expg_mod_order.
 Qed.
 
+Lemma eq_expg_ord d (m n : 'I_d) :
+  (d <= #[a]%g)%N -> (a ^+ m == a ^+ n) = (m == n).
```
Comment (thery) [inline solvable/cyclic.v:107]: `(...)%N`  is unnecessary the nat_scope seems openend

File: solvable/cyclic.v [hunk 9]
```diff
@@ -103,6 +103,19 @@ move/inj_eq=> eqZ; symmetry; rewrite -(Zp_cast lt1a).
...
+Proof.
+by move=> d_leq; rewrite eq_expg_mod_order !modn_small// (leq_trans _ d_leq).
+Qed.
+
+Lemma expgDzmod d (n m : 'Z_d) : (d > 0)%N ->
```
Comment (thery) [inline solvable/cyclic.v:112]: `expgD_Zp` seems a more canonical name.

File: solvable/cyclic.v [hunk 10]
```diff
@@ -103,6 +103,19 @@ move/inj_eq=> eqZ; symmetry; rewrite -(Zp_cast lt1a).
...
+  (#[a]%g %| d)%N -> (a ^+ (n + m)%R)%g = (a ^+ n * a ^+ m)%g.
```
Comment (thery) [inline solvable/cyclic.v:113]: `(...)%N` and `(...)%g` both are necessary. The scopes seem opened

File: solvable/nilpotent.v [hunk 11]
```diff
@@ -749,3 +750,63 @@ by rewrite (series_sol nsKG) !abelian_sol ?cyclic_abelian.
 Qed.
 
 End QuotientSol.
+
+Section setXn.
+Import finfun.
+
+Lemma sol_setXn n (gT : 'I_n -> finGroupType) (G : forall i, {group gT i}) :
```
Comment (thery) [inline solvable/nilpotent.v:757]: just an after-thought. Never knows in which order  :`sol_setXn` or `setXn_sol`.
If I look at `group_setXn` I think the first one is ok  and if I look at `quotient_sol` I think the second

**Comment by thery** [comment]
fine with me. @CohenCyril  you can merge.
